US04026891
(a) 6-(4'-Amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone
18.1 gm of 3-(4-amino-3-nitro-benzoyl)-propionic acid were reacted, as in Example 1a, with 18.1 gm of hydrazine hydrate in 200 ml of glacial acetic acid, yielding the desired compound which had a melting point above 330° C.

reactant | 3-(4-amino-3-nitro-benzoyl)-propionic acid | 18.1 gm | NC1=C(C=C(C(=O)CCC(=O)O)C=C1)[N+](=O)[O-] | C10H10N2O5
reactant | hydrazine hydrate | 18.1 gm | O.NN
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 6-(4'-Amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone | NC1=C(C=C(C=C1)C=1CCC(NN1)=O)[N+](=O)[O-] | C10H10N4O3
